US06329546B1
Synthesis of (E) 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid
Into 10 ml of tetrahydrofuran (THF), 0.65 g of (E) 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester was dissolved; and, with 10 ml of a 1-N aqueous sodium hydroxide solution being added thereto, the mixture was reacted for 4 hours at 40° C. After the completion of the reaction, the mixture was cooled with 10 ml of 1-N hydrochloric acid being added thereto, and the precipitated crystal was filtered out, whereby 0.57 g of the aimed compound was obtained (yield: 98%).

reactant | 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester | C(C)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)N)C)=O | C16H17NO2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid | 0.57 g, yield: 98% | NC=1C=CC=2C(=CC=C(C2)C=C(C(=O)O)C)C1 | C14H13NO2
